US07514582B2
2′-(Benzyloxycarbonylaminomethyl)biphenyl-2-carboxylic acid 2-(2-pyridyl)ethylamide
From 0.28 mmol of 2′-(benzyloxycarbonylaminomethyl)biphenyl-2-carboxylic acid (precursor 6) and 2-(2-pyridyl)ethylamine, according to ,the general working procedure and subsequent purification by flash chromatography 85 mg of 2′-(benzyloxycarbonylaminomethyl)biphenyl-2-carboxylic acid 2-(2-pyridyl)ethylamide were obtained; m.p. 140° C. (heptane/EA); MS (ES+): m/e=466 (M+1).

reactant | 2′-(benzyloxycarbonylaminomethyl)biphenyl-2-carboxylic acid | 0.28 mmol | C(C1=CC=CC=C1)OC(=O)NCC1=C(C=CC=C1)C=1C(=CC=CC1)C(=O)O | C22H19NO4
reactant | 2-(2-pyridyl)ethylamine | N1=C(C=CC=C1)CCN | C7H10N2
solvent | heptane EA | CCCCCCC.CC(OCC)=O
product | 2′-(Benzyloxycarbonylaminomethyl)biphenyl-2-carboxylic acid 2-(2-pyridyl)ethylamide | N1=C(C=CC=C1)CCNC(=O)C=1C(=CC=CC1)C1=C(C=CC=C1)CNC(=O)OCC1=CC=CC=C1 | C29H27N3O3
